* source SCRAP
C_C1         N00219 N00197  10uF  TC=0,0 
R_R1         GND_SIGNAL N00197  1k TC=0,0 
V_V2         N00703 0 5VDC
X_U1         N00197 VOUT N00703 0 VOUT uA741
R_R3         GND_SIGNAL VOUT  1.5k TC=0,0 
R_R5         N00703 GND_SIGNAL  10k TC=0,0 
R_R6         GND_SIGNAL 0  10k TC=0,0 
C_C3         N00703 GND_SIGNAL  220u  TC=0,0 
C_C4         GND_SIGNAL 0  220u  TC=0,0 
V_V3         N00219 GND_SIGNAL  
+SIN 0 1 1k 0 0 0
